US07601856B2
Following the procedure of Example 40, 2-chloro-N-7,8,9,10-tetrahydro-6H-benzo[b]cyclohepta[d]furan-2-ylacetamide (0.13 g, 0.45 mmol), water (0.010 mL, 0.56 mmol), and potassium tert-butoxide (0.10 g, 0.90 mmol) in dimethylformamide (5 mL) provided 2-tert-butoxy-N-7,8,9,10-tetrahydro-6H-benzo[b]cyclohepta[d]furan-2-ylacetamide (0.015 g) after reverse-phase HPLC purification.MS (ES) m/z 260.1 ([M+H]+).

reactant | 2-chloro-N-7,8,9,10-tetrahydro-6H-benzo[b]cyclohepta[d]furan-2-ylacetamide | 0.45 mmol, 0.13 g | ClCC(=O)NC1=CC2=C(OC3=C2CCCCC3)C=C1 | C15H16ClNO2
reactant | water | 0.56 mmol, 0.010 mL | O | H2O
reactant | potassium tert-butoxide | 0.90 mmol, 0.10 g | CC(C)([O-])C.[K+]
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 2-tert-butoxy-N-7,8,9,10-tetrahydro-6H-benzo[b]cyclohepta[d]furan-2-ylacetamide | 0.015 g | C(C)(C)(C)OCC(=O)NC1=CC2=C(OC3=C2CCCCC3)C=C1 | C19H25NO3
